US06953787B2
N-Trifluoroacetyl-8-bromo-7-hydroxy-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-1-isopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.041 g, 0.10 mmol) in dichloromethane (1 mL) was treated with BBr3 (0.32 ml, 1.0 M solution in CH2C12) and stirred overnight at 20 C. The excess BBr3 is quenched with water and the resulting mixture diluted with ether (50 mL), washed twice with saturated aqueous Na2CO3 (20 mL) and concentrated. Flash chromatography (20% EtOAc in hexanes, silica) resulted in 0.037 g clear oil. MS calculated for C15H17BrF3NO2+H: 380, observed: 380.

reactant | N-trifluoroacetyl-8-bromo-1-isopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.10 mmol, 0.041 g | FC(C(=O)N1CCC2=C(C(C1)C(C)C)C=C(C(=C2)OC)Br)(F)F | C16H19BrF3NO2
reactant | BBr3 | 1.0 M, 0.32 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-Trifluoroacetyl-8-bromo-7-hydroxy-1-isopropyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.037 g | FC(C(=O)N1CCC2=C(C(C1)C(C)C)C=C(C(=C2)O)Br)(F)F | C15H17BrF3NO2
